US07323475B2
d. 1-Bromo-7-(4-fluoro-phenoxy)-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester
A mixture of 7-(4-Fluoro-phenoxy)-1,4-dihydroxy-isoquinoline-3-carboxylic acid butyl ester (14.33 g, 38.6 mmol), POBr3 (44.7 g, 154.4 mmol) and anhydrous methyl cyanide (290 ml) was refluxed gently with stirring for 75 min before NaHCO3 (100.8 g, 1.2 mol) was added in small portions with stirring. Subsequently, water (200 ml) was added slowly with stirring and the mixture was stirred vigorously for 1 h at ambient temperature before it was concentrated in vacuo to ca. ½ of its volume. Then water (200 ml) was added and the mixture was extracted with EtOAc (1×400 ml, 1×200 ml). The combined organic phases were dried over MgSO4 and evaporated in vacuo to give a tan solid. The tan solid was dissolved in CH2Cl2 and purified by filtration through a plug of silica gel. In vacuo concentration of the resulting CH2Cl2 solution yielded the title compound (11.4 g); 1H NMR (CDCl3) δ=11.89 (s, 1H), 8.36 (d, 1H), 7.57 (d, 1H), 7.44 to 7.50 (m, 1H), 7.08 to 7.16 (m, 4H), 4.47 (t, 2H), 1.78 to 1.93 (m, 2H), 1.38 to 1.58 (m, 2H), 0.99 (t, 3H).

reactant | 7-(4-Fluoro-phenoxy)-1,4-dihydroxy-isoquinoline-3-carboxylic acid butyl ester | 38.6 mmol, 14.33 g | C(CCC)OC(=O)C=1N=C(C2=CC(=CC=C2C1O)OC1=CC=C(C=C1)F)O | C20H18FNO5
reactant | POBr3 | 154.4 mmol, 44.7 g | P(=O)(Br)(Br)Br | Br3OP
reactant | methyl cyanide | 290 ml | CC#N | C2H3N
reactant | NaHCO3 | 1.2 mol, 100.8 g | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | water | 200 ml | O | H2O
product | 1-Bromo-7-(4-fluoro-phenoxy)-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester | 11.4 g | C(CCC)OC(=O)C=1N=C(C2=CC(=CC=C2C1O)OC1=CC=C(C=C1)F)Br | C20H17BrFNO4
